5
L0100 1 0 1.04970000000093E-4
L0102 1 2 -4.97000000010406E-6
L0301 3 1 9.8950300000098E-3
C0400 4 0 10E-9 IC=10000
C0300 3 0 100E-12
$0402 4 2 5 0 1E3 0 1
V0500 5 0 PULSE 0 2 0 0 0 1000 2000 1
.TRAN 1E-7 1E-4 GEAR6 1 UIC
